US07429665B2
2-[4-(2-Methyl-6-pyridin-4-yl-[1,2,4]triazolo[1.5-a]pyrimidin-7-yl)-phenoxymethyl]-quinoline
Following the procedure for the preparation of 2-[4-(2-Methyl-6-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-7-yl)-phenoxymethyl]-quinoline but substituting 5-Methyl-2H-[1,2,4]-triazol-3ylamine provided the title compound. 1H NMR (400 MHz, CDCl3) δ 8.75 (s, 1H), 8.55 (m, 2H), 8.21(d, J=8.3 Hz, 1 H), 8.06 (d, J=7.5 Hz, 1H), 7.84 (d, J=7.1 Hz, 1H), 7.73 (m, 1H), 7.64 (d, J=8.3 Hz, 1 H), 7.55 (m, 1H), 7.42 (d, J=8.7, 2H), 7.08 (m, 4H), 5.39 (s, 2H) 2.60 (s, 3H); MS: (M+H m/z=445.2).

reactant | 2-[4-(2-Methyl-6-pyridin-4-yl-pyrazolo[1,5-a]pyrimidin-7-yl)-phenoxymethyl]-quinoline | CC1=NN2C(N=CC(=C2C2=CC=C(OCC3=NC4=CC=CC=C4C=C3)C=C2)C2=CC=NC=C2)=C1 | C28H21N5O
reactant | 5-Methyl-2H-[1,2,4]-triazol-3ylamine | CC=1N=C(NN1)N | C3H6N4
product | 2-[4-(2-Methyl-6-pyridin-4-yl-[1,2,4]triazolo[1.5-a]pyrimidin-7-yl)-phenoxymethyl]-quinoline | CC1=NN2C(N=CC(=C2C2=CC=C(OCC3=NC4=CC=CC=C4C=C3)C=C2)C2=CC=NC=C2)=N1 | C27H20N6O
